US06127548
2-Butyl-3-dimethylaminosulfonylimidazole
12.4 g of butylimidazole and 13.3 g of N,N-dimethylsulfamoyl chloride were introduced into 200 ml of methylene chloride, and 9.7 g of triethylamine was added at room temperature. The mixture was stirred for 20 hours at room temperature and for 2 hours at 40° C., 200 ml of water was added and the phases were separated. The organic phase was washed with water, dried with Na2SO4 and concentrated by evaporation to give 22.2 g of product in the form of a red oil. The yield was 96 percent. Other data concerning the product was:

reactant | butylimidazole | 12.4 g | C(CCC)C=1NC=CN1 | C7H12N2
reactant | N,N-dimethylsulfamoyl chloride | 13.3 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 9.7 g | C(C)N(CC)CC | C6H15N
solvent | water | 200 ml | O | H2O
product | 2-Butyl-3-dimethylaminosulfonylimidazole | 22.2 g, yield was 96 percent | C(CCC)C1=NC=CN1S(=O)(=O)N(C)C | C9H17N3O2S
